2130-11-12 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-11-11**] 10:00 PM
 FEVER - 102.4
F - [**2130-11-11**] 08:00 PM
   Episode of desats to mid 80s on 100% NRB after moving in bed, came up
   mid 90s
   CXR: Mildly improved pulm edema, ABG as below with resp alkalosis, PaO2
   lower than expected since on 6L NC and 100% NRB
   Given Lasix 40 IV x1 with good UOP,Also given  morphine, nitropaste,
   started ACE for heart failure management
   Started Cipro for dirty UA
   Had 2 loose BMs so C diff sent
   NSVT x 10 beats
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2130-11-11**] 04:55 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-11-12**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.1
C (100.6
   HR: 110 (0 - 124) bpm
   BP: 103/42(56) {101/35(55) - 128/47(62)} mmHg
   RR: 43 (21 - 48) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  2,711 mL
                                                                     57 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,271 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    925 mL
   Urine:
                                                                    540 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,171 mL
                                                                   -869 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.48/33/91.[**Numeric Identifier 143**]//1
   Physical Examination
   GEN: big young diaphoretic male in NAD
   HEENT: NC/AT. MM slightly dry. O/P clear.
   NECK: JVP elevated to below angle of jaw. No bruits
   COR: tachycardic and regular, unable to appreciate any m/r/g
   PULM: crackles at L base otherwise CTAB
   ABD: obese S/NT/ND + BS
   EXT: WWP, trace edema
   NEURO: A+O x 3, grossly non-focal
   Labs / Radiology
   449
   12.7
   152
   0.9
   27
   3.8
   14
   97
   132
   36.5
   18.3
        [image002.jpg]
   PT 15.6 PTT 26.7 INR 1.4 Ca7.9 Mg 2.3 Phos 3.7 ALT 83 AST 130 AP 73 LDH
   574 T bili 0.7 Lactate 1.5 CPK 1047->856 MB 108->58 Index 10.3->6.8
   Trop 0.62->0.88
   Blood cx, urine cx NGTD
   ECG: New TWI lateral leads c/w yesterday
   CXR: Mildly worse pulmonary edema with ? new confluence in RML/RLL
                            [**2130-11-11**]  11:27 PM
   TCO2
   25
   Other labs: Lactic Acid:1.6 mmol/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   35M without significant PMH now p/w chest pain, elevated cardiac
   enzymes in setting of viral illness and prodrome c/w
   myocarditis/pericarditis
   .
   # Myocarditis/Pericarditis
 Unclear if pt has component of
   pericardiitis in addition to myocarditis given positional nature of
   pain, ? rub on exam today and new ECG changes although ECG findings
   are not typical for pericarditis. Appears acute (and not fulminant) in
   the setting of a recent viral illness. Treatment is largely supportive.
   Has developed volume overload with worsened pulmonary edema and episode
   overnight suggesting more depressed EF than was evident on echo done
   yesterday. He was given gentle IVF which may have triggered acute pulm
   edema episode. Symptoms improved with repositioning and Lasix. Most
   likely etiology viral ([**Location (un) 2636**], vs. HIV vs. CMV/EBV, hep) although
   other considerations include Lyme, bacterial such as strep if concern
   for pancarditis, Chagas since from El [**Country 2613**], other viral ex. MMR,
   rheumatic (although clinically does not fit this picture and no other
   findings c/w rheumatological disease.  TB also consideration although
   he denies known TB contacts.
   -- monitor on telemetry
   -- trend CE's daily to assess for ongoing myocardial necrosis, CKs
   trending down
   -- daily EKGs
   -- Follow daily CXR to eval pulmonary vascular overload. Will give
   Lasix IV 40 this am given CXR clinical exam
   -- repeat echo given clinical picture of worsening heart failure and
   echo which only showed mildly depressed EF however may have component
   oif diastolic dysfxn as well
   -- will order cardiac MRI to eval for edema and myonecrosis
   -- Cards c/s for further management and evaluation of new ECG changes
   -- will treat with CHF regimen as BP tolerate, ACE added, but will see
   how BP tolerates Lasix this am
   -- f/u blood cultures, urine cx although only first set of cx in ED
   done off ABx and has been on outpatient courses of Abx
   -- treating with Cipro IV for ? UTI
   -- no clear role for antivirals ie ribavirin or interferon beta.
   -- corticosteroids and cyclosporine exacerbate murine viral
   myocarditis...avoid these meds. Insuffieicnt evidence for IvIG. NSAIDs
   not effective
   -- tylenol prn fever/pain, zofran prn nausea
   -- Check various serologies: Lyme, EBV, CMV, HIV, Hepatitis panel, MMR,
   also ASO and [**Doctor First Name **]
   .
   # Transaminitis -  Mild and stable with AST > ALT indicates possible
   non-hepatic etiology. Probably related to myonecrosis but also ? [**3-4**]
   viral etiology. No known baseline or prior data
   -- will send serologies as above
   -- trend LFTs
   .
   # Anemia - mild, likely related to ongoing acute illness, stable
   -- send iron studies, b12, folate
   -- guaiac stool
   .
   # Leukocytosis: Trending down. ? infection in urine vs lungs. Currently
   on Cipro for UTI. F/U cx. Obtain sputum cx.
   .
   # Hyponatremia - likely [**3-4**] dehydration. Improved this am to 132. Will
   follow
   .
   # FEN
   -- low Na cardiac HH diet
   -- Diuresis as above, no IVF given fluid overload, tolerating PO diet
   -- replete lytes prn. Mg goal 2.0, K 4.0. Will replete aggressively
   given NSVT overnight and receiving Lasix. Will recheck in pm
   .
   # PPx
   -- sQ heparin TID
   -- prn bowel regimen
   -- no H2 blocker, on diet
   .
   # Access
   -- 2 PIVs
   .
   # Code
   -- full, confirmed
   .
   # Comm
   -- brother [**Name (NI) 2615**] [**Telephone/Fax (1) 2616**]
   .
   # Dispo
   -- ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-11-11**] 04:55 PM
   18 Gauge - [**2130-11-11**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined and was present for the key portions of the
   services provided. I have reviewed Dr [**Last Name (STitle) 2391**]
s note and agree with the
   findings and plan of care. I would add that the patient
s desaturation
   last night, and improvement with lasix suggested CHF, which is present
   on CXR.  This would suggest an LVEF lower than the 50% seen on
   yesterday
s echo.  The presumed dx is a myocarditis, possibly viral.
   Though echo shows no pericardial effusion his positional chest pain and
   his precordial exam do suggest possible pericarditis.  We will ask
   Cardiology to follow the patient with us, and advise regarding further
   cardiac studies and whether it is better to push diuresis or afterload
   reduction.   The patient had NSVT last night and has rising troponin
   and evolving EKG, so he needs to remain in the CCU with monitoring.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   40 minutes spent in the care of this critically ill patient
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2130-11-12**] 13:01 ------